US08420631B2
3-tert-Butoxycarbonyl-7-chloro-6-[5-(cyclopentanecarbonyl-amino)-pentyl]-2,3,4,5-tetrahydro-1H-benzo[d]azepine:
Dissolve 3-tert-butoxycarbonyl-7-chloro-6-[5-(cyclopentanecarbonyl-amino)-pent-1-enyl]-2,3,4,5-tetrahydro-1H-benzo[d]azepine as obtained in the previous step in EtOAc (20 mL) and add 10% Pd/C (Degussa type, 200 mg). Then apply a pressure of 70 psi of hydrogen while shaken vigorously. Filter the crude mixture through a short pad of Celite® and concentrate in vacuo. Purify the resulting material by preparative HPLC to obtain the desired intermediate as a clear oil (311 mg, 87% for the two previous steps). MS (ES+) m/z=485.2 (M+Na)+.

reactant | 3-tert-butoxycarbonyl-7-chloro-6-[5-(cyclopentanecarbonyl-amino)-pent-1-enyl]-2,3,4,5-tetrahydro-1H-benzo[d]azepine | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)C=CCCCNC(=O)C2CCCC2 | C26H37ClN2O3
reactant | hydrogen | [H][H] | H2
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
catalyst | Pd/C | 200 mg | [Pd] | Pd
product | 3-tert-Butoxycarbonyl-7-chloro-6-[5-(cyclopentanecarbonyl-amino)-pentyl]-2,3,4,5-tetrahydro-1H-benzo[d]azepine | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)CCCCCNC(=O)C2CCCC2 | C26H39ClN2O3
